US07572805B2
(3aR,9bS)-4-Benzyl-6-chloro-8-ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
Following the procedures described in Example 24, Parts A and B, except that benzyl bromide was used instead of iodomethane, (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the first eluting compound from the OD column separation of N-BOC intermediate enantiomers in Example 29 and 30 (the first eluting compound gave Example 29), was converted to the title compound of Example 43 as an off-white solid. 1H NMR (CD3OD): δ 7.40 (s, 1H), 7.38-7.24 (m, 5H), 7.01 (s, 1H), 5.09 and 4.67 (ABq, 2H, JAB=15.7 Hz), 4.04 (dd, 1H, J=7.4, 11.3 Hz), 3.88-3.81 (m, 1H), 3.65-3.55 (m, 2H), 3.40-3.32 (m, 2H), 2.70 (q, 2H, J=7.5 Hz), 1.25 (t, 3H, J=7.7 Hz). LRMS (ESI): 341.3/343.3 (M+H)+.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | ClC1=CC(=CC=2[C@@H]3[C@@H](NC(C12)=O)CN(C3)C(=O)OC(C)(C)C)CC | C18H23ClN2O3
product | (3aR,9bS)-4-Benzyl-6-chloro-8-ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C(C=2C(=CC(=CC2[C@@H]2[C@@H]1CNC2)CC)Cl)=O | InChI=1S/C20H21ClN2O.ClH/c1-2-13-8-15-16-10-22-11-18(16)23(12-14-6-4-3-5-7-14)20(24)19(15)17(21)9-13;/h3-9,16,18,22H,2,10-12H2,1H3;1H/t16-,18+;/m1./s1
